US05972975
To a solution of 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phthalimidoethyl)pyridine (100 mg, 0.28 mmol) in 1.0 mL of methanol under nitrogen at room temperature was added hydrazine (0.018 mL, 0.56 mmol) via syringe. The mixture was stirred at room temperature overnight. Dichloromethane (2.0 mL) was added to the reaction. The precipitate was removed by filtration and washed with another 2 mL of dichloromethane. The combined filtrates were concentrated. The resulting residue was chromatographed on 7 g of silica gel, eluting with 100 mL of 5% methanol/dichloromethane followed by 200 mL of 96:4:1 dichloromethane/methanol/triethylamine to give 44 mg (68% yield) of 6-(2-aminoethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine as colorless syrup.

reactant | 4-methyl-2-(2,5-dimethylpyrrol-1-yl)-6-(2-phthalimidoethyl)pyridine | 0.28 mmol, 100 mg | CC1=CC(=NC(=C1)CCN1C(C=2C(C1=O)=CC=CC2)=O)N2C(=CC=C2C)C | C22H21N3O2
reactant | hydrazine | 0.56 mmol, 0.018 mL | NN | H4N2
reactant | Dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | methanol | 1.0 mL | CO | CH4O
product | 6-(2-aminoethyl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 44 mg, 68% yield | NCCC1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C14H19N3
